US07135475B2
A mixture of (1-trityl-1H-[1,2,4]triazol-3-yl)-methanol (320 mg, 0.47 mmol) and triphenylphosphine (136 mg, 0.47 mmol) in tetrahydrofuran (9.4 mL) cooled to 0° C. was treated with diethylazodicarboxylate (0.82 mL, 0.47 mmol). This solution was warmed to 25° C. for 5 min and then was re-cooled to 0° C. where it was stirred for an additional 10 min. At this time, the reaction was treated with 2-(4-acetylamino-phenyl)-N-[6-amino-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-acetamide (200 mg, 0.47 mmol). The reaction was then allowed to slowly warm to 25° C. The resulting solids were removed by filtration. The filtrate was diluted with ethyl acetate, washed with water and a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh) afforded 2-(4-acetylamino-phenyl)-N-[6-amino-3-(2-fluoro-benzyl)-2,4-dioxo-1-(1-trityl-1H-[1,2,4]triazol-3-ylmethyl)-1,2,3,4-tetrahydro-pyrimidin-5-yl]-acetamide (55 mg, 15.6%) as a yellow foam: LR-APCI for C43H37FN8O4 (M+H)+at m/z=749.

reactant | (1-trityl-1H-[1,2,4]triazol-3-yl)-methanol | 0.47 mmol, 320 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=C1)CO | C22H19N3O
reactant | triphenylphosphine | 0.47 mmol, 136 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.47 mmol, 0.82 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 2-(4-acetylamino-phenyl)-N-[6-amino-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-acetamide | 0.47 mmol, 200 mg | C(C)(=O)NC1=CC=C(C=C1)CC(=O)NC=1C(N(C(NC1N)=O)CC1=C(C=CC=C1)F)=O | C21H20FN5O4
solvent | tetrahydrofuran | 9.4 mL | O1CCCC1 | C4H8O
product | 2-(4-acetylamino-phenyl)-N-[6-amino-3-(2-fluoro-benzyl)-2,4-dioxo-1-(1-trityl-1H-[1,2,4]triazol-3-ylmethyl)-1,2,3,4-tetrahydro-pyrimidin-5-yl]-acetamide | 55 mg, 15.6% | C(C)(=O)NC1=CC=C(C=C1)CC(=O)NC=1C(N(C(N(C1N)CC1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=C(C=CC=C1)F)=O | C43H37FN8O4
